US06756378B2
To a solution of methyl 2-acetylamino-4-nitrobenzoate (1.31 g, 5.50 mmol) in MeOH (30 mL) was added 5% Pd on carbon (195 mg), and the stirring under H2 gas (3 atm) was continued for 18 hours at rt. The catalyst was filtered off and the mixture was evaporated. The resulting crude solid was recrystallized with CHCl3—MeOH-hexane to give methyl 2-acetylamino-4-aminobenzoate (1.03 g, 90%) as a white solid. 1H-NMR (400 MHz, CDCl3) δ2.23 (s, 3 H), 3.82 (s, 3 H), 4.20 (s, 2 H), 6.30 (dd, J=2.5 Hz, 8.8 Hz, 1 H), 7.80 (d, J=8.8 Hz, 1 H), 8.06 (s, 1 H), 11.26 (s, 1 H); MS (FAB), m/z 208 (M+).

reactant | methyl 2-acetylamino-4-nitrobenzoate | 5.50 mmol, 1.31 g | C(C)(=O)NC1=C(C(=O)OC)C=CC(=C1)[N+](=O)[O-] | C10H10N2O5
solvent | MeOH | 30 mL | CO | CH4O
catalyst | Pd on carbon | 195 mg | [Pd] | Pd
product | methyl 2-acetylamino-4-aminobenzoate | 1.03 g, 90% | C(C)(=O)NC1=C(C(=O)OC)C=CC(=C1)N | C10H12N2O3
